US04808595
Step A: Preparation of N,N-Dimethyl-N'(6-methylfuro[3,2-c]pyridine-2-sulfonyl)formamidine
To a suspension of 2-sulfamoyl-6-methylfuro[3,2-c]pyridine (3.65 g, 17.2 mmol) in acetonitrile (80 ml), under a nitrogen atmosphere, was added N,N-dimethylformamide dimethyl acetal (2.6 ml, 19.6 mmol). This reaction was stirred for 1.5 hours at room temperature and then diluted with chloroform and washed with water. The organic layer was separated, dried over anhydrous sodium sulfate, filtered through a charcoal pad and the solvent evaporated. The residue was triturated with diethyl ether and the product collected (4.31 g, 93% yield) and used as is. A small portion was crystallized from ethyl acetate for microanalysis, mp. 175°-177° C.

reactant | 2-sulfamoyl-6-methylfuro[3,2-c]pyridine | 17.2 mmol, 3.65 g | S(N)(=O)(=O)C1=CC=2C=NC(=CC2O1)C | C8H8N2O3S
reactant | N,N-dimethylformamide dimethyl acetal | 19.6 mmol, 2.6 ml | COC(N(C)C)OC | C5H13NO2
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N,N-Dimethyl-N'(6-methylfuro[3,2-c]pyridine-2-sulfonyl)formamidine | 93% yield | CN(C=NS(=O)(=O)C1=CC=2C=NC(=CC2O1)C)C | C11H13N3O3S
